US07888362B2
An aqueous solution of 4N lithium hydroxide (3 ml) was added to a methanol solution (7 ml) of ethyl 4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-quinolin-2-carboxylate (1.5 g), followed by stirring at room temperature overnight. Then, water (10 ml) and aqueous solution (3 ml) of 4N lithium hydroxide were further added, followed by stirring at 50° C. for 11 hours. The reaction mixture was cooled in an ice-bath, and an aqueous solution (4 ml) of 6N—HCl was added thereto. Then, crystals precipitated were filtered out, washed with water and dried to obtain 4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]quinolin-2-carboxylic acid hydrochloride (1.43 g, yield: 98%) as white powder.

reactant | lithium hydroxide | 4N, 3 ml | [OH-].[Li+]
reactant | methanol | 7 ml | CO | CH4O
reactant | ethyl 4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]-quinolin-2-carboxylate | 1.5 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=CC(=NC1=CC=CC=C21)C(=O)OCC | C27H29N3O3S
reactant | lithium hydroxide | 4N, 3 ml | [OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | water | 10 ml | O | H2O
product | 4-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]quinolin-2-carboxylic acid hydrochloride | 1.43 g, yield: 98% | Cl.S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCOC2=CC(=NC1=CC=CC=C21)C(=O)O | InChI=1S/C25H25N3O3S.ClH/c29-25(30)21-17-23(18-5-1-2-6-20(18)26-21)31-15-4-10-27-11-13-28(14-12-27)22-7-3-8-24-19(22)9-16-32-24;/h1-3,5-9,16-17H,4,10-15H2,(H,29,30);1H
